US06384028B1
A solution of phenylisocyanate (0.93 ml) in benzene (5 ml) was added to a mixture of 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone (1.0 g) in benzene (10 ml), nitroethane (0.35 ml), and triethylamine (0.1 ml) in benzene (5 ml) at room temperature. The reaction mixture was refluxed for 8 hours, then evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with n-hexane-ethyl acetate (9:1) to give 1-tert-butyldimethylsilyl-4(S)-(3-methyl-5-isoxazolyl)-2-azetidinone (0.96 g) as a colorless oil.

reactant | phenylisocyanate | 0.93 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-tert-butyldimethylsilyl-4(S)-ethynyl-2-azetidinone | 1.0 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C#C)=O | C11H19NOSi
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | nitroethane | 0.35 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 1-tert-butyldimethylsilyl-4(S)-(3-methyl-5-isoxazolyl)-2-azetidinone | 0.96 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C1=CC(=NO1)C)=O | C13H22N2O2Si
